US06903125B2
5% Palladium-carbon powder was added to a suspension of 4-(4-nitrophenyl)-1,3-oxazole in mixture of ethanol and tetrahydrofuran, and the reaction mixture was stirred under 1 atm of hydrogen at ambient temperature for 12 hours. The reaction mixture was filtered through Celite, and the resulting filtrate was concentrated under reduced pressure. The resulting crude product was purified by silica gel column chromatography, to obtain [4-(1,3-oxazol-4-yl)phenyl]amine (pale yellow solid). Electron Impact-MS (M)+:160.

reactant | 4-(4-nitrophenyl)-1,3-oxazole | [N+](=O)([O-])C1=CC=C(C=C1)C=1N=COC1 | C9H6N2O3
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | Palladium-carbon | [C].[Pd]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [4-(1,3-oxazol-4-yl)phenyl]amine | O1C=NC(=C1)C1=CC=C(C=C1)N | C9H8N2O
